US04420477
15% solution of n-butyl lithium in hexane (371 ml) was dissolved in dry tetrahydrofuran (150 ml) and cooled to -20° C. To the solution was added dropwise a solution of 1-allyl-1H-tetrazole-5-thiol (38.7 g) in tetrahydrofuran (220 ml) with stirring under a stream of nitrogen gas during a period of 30 minutes. After the addition of solid carbon dioxide, the mixture was stirred for 30 minutes at -10° C. To the mixture was added water (275 ml) and then the resulting mixture was stirred. The aqueous layer was separated adjusted to pH 4.5, washed with ethyl acetate, adjusted to pH 3.8 to 4.0 and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then evaporated. The residue was washed with diisopropyl ether to give an oil of 1-(3-carboxy-1-propenyl)-1H-tetrazole-5-thiol (5.5 g).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1-allyl-1H-tetrazole-5-thiol | 38.7 g | C(C=C)N1N=NN=C1S | C4H6N4S
reactant | carbon dioxide | C(=O)=O | CO2
reactant | water | 275 ml | O | H2O
solvent | hexane | 371 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
product | 1-(3-carboxy-1-propenyl)-1H-tetrazole-5-thiol | 5.5 g | C(=O)(O)CC=CN1N=NN=C1S | C5H6N4O2S
